US08802661B2
Preparation of methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 13
To a flask containing (1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid (0.154 g, 0.267 mmol) was added oxalyl chloride (2M in dichloromethane) (5 mL, 10.00 mmol). The solution was stirred at rt for 3 h. The mixture was concentrated under reduced pressure and was dissolved in dichloromethane and concentrated two additional times. The crude product was used in the next step with no additional purification.

reactant | (1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 0.267 mmol, 0.154 g | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CC[C@@H]3[C@]4(CC[C@@H](C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)C2=CC=C(C=C2)C(=O)OC)C)C(=O)O | C38H56O4
reactant | oxalyl chloride | 10.00 mmol, 2M, 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | ClC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(C)C | C38H55ClO3
